US06610694B1
Production of 6-[3-[4-(Diphenylmethoxy)piperidino]propoxy]-2-methyl[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
0.52 g of 4-(diphenylmethoxy)-1-piperidinepropanol was dissolved in 3 ml of N,N-dimethylformamide; 0.0704 g of 60% oily sodium hydride was added, followed by stirring at room temperature for 1 hour. 0.325 g of 6-chloro-2-methyl[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one was added, followed by stirring at room temperature for 2 hours. After ice water was added, the reaction mixture was extracted with ethyl acetate; the extract was washed with saturated saline and dried over magnesium sulfate. After concentration under reduced pressure, the residue was subjected to silica gel column chromatography and eluted with ethyl acetate-methanol-triethylamine (90:10:1). The desired fraction was collected and concentrated; the crystal obtained was filtered, washed with diethyl ether, and dried, to yield 0.502 g of the title compound.

reactant | 4-(diphenylmethoxy)-1-piperidinepropanol | 0.52 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCO)C1=CC=CC=C1 | C21H27NO2
reactant | sodium hydride | 0.0704 g | [H-].[Na+]
reactant | 6-chloro-2-methyl[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.325 g | ClC=1C=CC=2N(N1)C(N(N2)C)=O | C6H5ClN4O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 6-[3-[4-(Diphenylmethoxy)piperidino]propoxy]-2-methyl[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.502 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCOC=1C=CC=2N(N1)C(N(N2)C)=O)C2=CC=CC=C2 | C27H31N5O3
